US05099019
PREPARATION A-44 4-[2-[4-[2,6-Bis(1-pyrrolidinyl)-4-pyrimidinyl]-1-piperazinyl]ethyl]piperazine
The N-protected 2-hydroxyethylpiperazine (3.0 g), triethylamine (1.42 g) and methylene chloride (30 ml) is cooled to 0° in an ice bath under nitrogen. A mixture of methanesulfonyl chloride (1.64 g) in methylene chloride (30 ml) is added dropwise over 10 min. The cooling bath is removed and the mixture allowed to warm to 20°-25° for 30 min. The mixture is then washed with water (60 ml), dried over sodium sulfate and the solvent removed to give crude mesylate. 4-[2,6-Bis(1-pyrrolidinyl)-4-pyrimidinyl]piperazine (4.23 g), potassium carbonate (1.93 g) and acetonitrile (150 ml) are added to the crude mesylate. The mixture is heated at reflux for 18 hr. The acetonitrile is removed under reduced pressure and the residue distributed between chloroform (200 ml) and water (200 ml). The phases are separated, the organic phase is washed with saline, dried over sodium sulfate and the solvent removed under reduced pressure to give an oil. The oil is flash chromatographed on silica gel (200 g) with ethyl acetate/methanol/ammonium hydroxide (9.5/0.4/0.1). The appropriate fractions are pooled and concentrated to give the N-protected form of the title compound as a solid, mp 148°-149°.

reactant | 4-[2,6-Bis(1-pyrrolidinyl)-4-pyrimidinyl]piperazine | 4.23 g | N1(CCCC1)C1=NC(=CC(=N1)N1CCNCC1)N1CCCC1 | C16H26N6
reactant | potassium carbonate | 1.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | mesylate | S(C)(=O)(=O)[O-]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4-[2-[4-[2,6-Bis(1-pyrrolidinyl)-4-pyrimidinyl]-1-piperazinyl]ethyl]piperazine | N1(CCCC1)C1=NC(=CC(=N1)N1CCN(CC1)CCN1CCNCC1)N1CCCC1 | C22H38N8
